* OVERALL BEST CANDIDATE: 00_Phase_3_400V_3_Phase_DC_to_24V_Buck_g2_cand3_b4
* FITNESS SCORE: 0.5108
*
* Generated: 2026-06-05T20:14:57
* Constraint: Phase 3: 400V 3-Phase DC to 24V (Buck)
*   vin_min = 360
*   vin_max = 440
*   vout_target = 24
*   efficiency_target = 0.94
*   power_in = 500
* Candidate: 6 of 12
* Grouped name: g2_cand3
*
* 360V to 24V 3-Phase Buck, 500W
Vin in 0 360
M1 in gate1 sw1 0 NMOS W=1 L=1
M2 in gate2 sw2 0 NMOS W=1 L=1
M3 in gate3 sw3 0 NMOS W=1 L=1
D1 0 sw1 DIODE
D2 0 sw2 DIODE
D3 0 sw3 DIODE
L1 sw1 out 220u
L2 sw2 out 220u
L3 sw3 out 220u
C1 out 0 470u
Rload out 0 1.15
Vgate1 gate1 0 PULSE(0 12 0 1n 1n 5.8u 10u)
Vgate2 gate2 0 PULSE(0 12 3.27u 1n 1n 5.8u 10u)
Vgate3 gate3 0 PULSE(0 12 6.54u 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
