* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_6
* Fitness: 0.9887
*
* --- Active Constraints ---
* _comment: Phase 3: 400V 3-Phase DC to 24V (Buck)
* vin_min: 360
* vin_max: 440
* vout_target: 24
* efficiency_target: 0.94
* power_in: 500
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 23.717148
* efficiency: 0.963430
* total_volume_cm3: 33.795162
* total_components: 7
* ============================

* 400V to 24V interleaved 2-phase buck, 500W
Vin in 0 400
M1 in gate1 sw1 sw1 NMOS W=1 L=1
M2 in gate2 sw2 sw2 NMOS W=1 L=1
D1 0 sw1 DIODE
D2 0 sw2 DIODE
L1 sw1 out 10u
L2 sw2 out 10u
C1 out 0 100u
Rload out 0 1.15
Vgate1 gate1 sw1 PULSE(0 12 0 1n 1n 580n 10u)
Vgate2 gate2 sw2 PULSE(0 12 5.8u 1n 1n 580n 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end